US03975348
Eighty grams of the polyesteramide prepared in Example 1 (a 60% solution of polyesteramide in styrene) were weighed into equipment as in Example 1. Five grams of Arlacel C and 1 gram of Methocel 65 HG were mixed in slowly using a high speed stirrer. One-half milliliter of dimethyl aniline was then added with stirring followed by 1.2 grams of a 12% solution of Hexagen cobalt octoate. An aqueous solution of diacetone acrylamide, obtained by mixing 14 grams of diacetone acrylamide with 100 grams of water, was then added at such a rate that continuous emulsification took place. After all the water was added, the water-in-oil emulsion was deaerated for 15 minutes using a vacuum pump. A stable, uniform water-in-oil emulsion was obtained.

reactant | Arlacel C | Five grams | CCCCCCCC/C=C\CCCCCCCC(=O)O.CCCCCCCC/C=C\CCCCCCCC(=O)O.CCCCCCCC/C=C\CCCCCCCC(=O)O.C(O)[C@@H](O)[C@@H](O)[C@H](O)[C@@H](O)CO.C(O)[C@@H](O)[C@@H](O)[C@H](O)[C@@H](O)CO
reactant | dimethyl aniline | One-half milliliter | CN(C1=CC=CC=C1)C | C8H11N
solvent | styrene | C=CC1=CC=CC=C1 | C8H8
catalyst | cobalt octoate | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Co+2]
product | diacetone acrylamide | C(C=C)(=O)N.CC(=O)C.CC(=O)C | InChI=1S/C3H5NO.2C3H6O/c1-2-3(4)5;2*1-3(2)4/h2H,1H2,(H2,4,5);2*1-2H3
